US09034336B2
c. 5-(2-Amino-4-methoxycarbonylphenyl)-2-butyl-1-(2-hydroxy-2-methylpropyl)-1H-imidazole-4-carbonitrile (S6)
To a suspension of Pd(OAc)2 (11.2 mg, 0.05 mmol, 0.05 equiv) and PPh3 (26.2 mg, 0.1 mmol, 0.1 equiv) in DME (4 mL) were sequentially added 2-butyl-1-(2-hydroxy-2-methylpropyl)-5-iodo-1H-imidazole-4-carbonitrile S5 (347 mg, 1 mmol, 1 equiv), 2-amino-4-methoxycarbonylphenylboronic acid hydrochloride salt (347 mg, 1.5 mmol, 1.5 equiv) and 1.5 M aqueous Na2CO3 (2.0 mL, 3 mmol, 3 equiv) at 25° C. The reaction was heated at 100° C. for 6 h. TLC and MS analysis indicated the presence of S5; consequently, additional Pd(OAc)2 (5 mg) and PPh3 (13 mg) were added and the reaction was heated further at 100° C. for 15 h. The reaction was then cooled down to 25° C. and partitioned between EtOAc (50 mL) and H2O (10 mL). The aqueous layer was extracted with EtOAc (3×15 mL). The combined organic layers was washed with saturated aqueous NaCl (20 mL), dried (MgSO4) and concentrated in vacuo. Purification by flash column chromatography on silica gel (1/9 EtOAc/hexanes-7/3 EtOAc/hexanes, gradient) afforded the title compound (118 mg, ˜90% pure, 32%) as light yellow foam, which was used in the next step without further purification.

reactant | PPh3 | 0.1 mmol, 26.2 mg, 0.1 equiv | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 2-butyl-1-(2-hydroxy-2-methylpropyl)-5-iodo-1H-imidazole-4-carbonitrile | C(CCC)C=1N(C(=C(N1)C#N)I)CC(C)(C)O | C12H18IN3O
reactant | 2-amino-4-methoxycarbonylphenylboronic acid hydrochloride salt | 1.5 mmol, 347 mg, 1.5 equiv | Cl.NC1=C(C=CC(=C1)C(=O)OC)B(O)O
reactant | Na2CO3 | 3 mmol, 1.5 M, 2.0 mL, 3 equiv | C(=O)([O-])[O-].[Na+].[Na+]
reactant | PPh3 | 13 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | DME | 4 mL | COCCOC | C4H10O2
catalyst | Pd(OAc)2 | 0.05 mmol, 11.2 mg, 0.05 equiv | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | Pd(OAc)2 | 5 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-(2-Amino-4-methoxycarbonylphenyl)-2-butyl-1-(2-hydroxy-2-methylpropyl)-1H-imidazole-4-carbonitrile | 118 mg | NC1=C(C=CC(=C1)C(=O)OC)C1=C(N=C(N1CC(C)(C)O)CCCC)C#N | C20H26N4O3
